US08242153B2
d) 4-(4-Fluoro-phenyl)-4-methyl-pentanoic acid methoxy-methyl-amide
To a stirred solution of 4-(4-fluoro-phenyl)-4-methyl-pentanoic acid ethyl ester (3.97 g) and N,O-dimethylhydroxylamine hydrochloride (2.44 g) in tetrahydrofuran (40 ml) at −18° C. was added dropwise a solution of isopropylmagnesium chloride (25.0 ml, 2 M solution in THF). The mixture was stirred for 30 min at −15° C. and then quenched by addition of saturated ammonium chloride solution. The mixture was then acidified to pH 1 by addition of 1 M aq. hydrochloric acid and taken up in ethyl acetate. The mixture was washed sequentially with water and with saturated brine, then dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (SiO2, heptane/EtOAc gradient) to yield a colourless oil, (3.91 g, 93%); MS (ISP): 254.2 ([M+H]+).

reactant | 4-(4-fluoro-phenyl)-4-methyl-pentanoic acid ethyl ester | 3.97 g | C(C)OC(CCC(C)(C)C1=CC=C(C=C1)F)=O | C14H19FO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.44 g | Cl.CNOC
reactant | isopropylmagnesium chloride | 2 M, 25.0 ml | C(C)(C)[Mg]Cl
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-(4-Fluoro-phenyl)-4-methyl-pentanoic acid methoxy-methyl-amide | CON(C(CCC(C)(C)C1=CC=C(C=C1)F)=O)C | C14H20FNO2
